US05981776
Methyl 4-iodo-3-[2-[4-(1-adamantyl)-3-methoxyphenyl]-1-propenyloxy]benzoate
A solution of 30% sodium methoxide in methanol (0.3 ml, 1.6 mmol) is added over 8 hours to a mixture of methyl 3-[4-(1-adamantyl)-3-methoxybenzoylmethyloxy]-4-iodobenzoate (870 mg, 1.55 mmol) and methyltriphenylphosphine bromide (790 mg, 2.21 mmol) in THF (10 ml).

reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 1.6 mmol, 0.3 ml | CO | CH4O
reactant | methyl 3-[4-(1-adamantyl)-3-methoxybenzoylmethyloxy]-4-iodobenzoate | 1.55 mmol, 870 mg | C12(CC3CC(CC(C1)C3)C2)C2=C(C=C(C(=O)COC=3C=C(C(=O)OC)C=CC3I)C=C2)OC | C27H29IO5
reactant | methyltriphenylphosphine bromide | 2.21 mmol, 790 mg | [Br-].CP(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | Methyl 4-iodo-3-[2-[4-(1-adamantyl)-3-methoxyphenyl]-1-propenyloxy]benzoate | IC1=C(C=C(C(=O)OC)C=C1)OC=C(C)C1=CC(=C(C=C1)C12CC3CC(CC(C1)C3)C2)OC | C28H31IO4
